US07169780B2
Step 2: Benzyl 1-cyano-1-methylethylcarbamate
To a suspension of 2-amino-2-methylpropanenitrile in water an equimolar amount of Na2CO3 and a slight excess (1.1 eq) of benzylchloroformate were added, with an external cooling. Reaction mixture was stirred o/n at room temperature, extracted in EtOAc and the organic phase was washed with NaHCO3ss, dried (Na2SO4), filtered and concentrated. Product was obtained as a white solid.

reactant | 2-amino-2-methylpropanenitrile | NC(C#N)(C)C | C4H8N2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzylchloroformate | 1.1 eq | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | O | H2O
product | Benzyl 1-cyano-1-methylethylcarbamate | C(#N)C(C)(C)NC(OCC1=CC=CC=C1)=O | C12H14N2O2
